US07863283B2
2-Amino-5-bromo-4-methoxybenzonitrile
2-Amino-4-methoxybenzonitrile (4.47 g, 30.2 mmol) is dissolved in 70 ml of dioxane and treated at 0° C. with bromine (1.71 ml, 33.2 mmol). It is subsequently stirred at 0° C. for one hour. After addition of diethyl ether, the resulting crystals are filtered off with suction. The desired product is obtained in 81% yield (5.52 g).

reactant | 2-Amino-4-methoxybenzonitrile | 30.2 mmol, 4.47 g | NC1=C(C#N)C=CC(=C1)OC | C8H8N2O
reactant | bromine | 33.2 mmol, 1.71 ml | BrBr | Br2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 2-Amino-5-bromo-4-methoxybenzonitrile | 81% yield | NC1=C(C#N)C=C(C(=C1)OC)Br | C8H7BrN2O
